US07576094B2
To a solution of 4-methoxy-3,5-dimethylaniline (5 g) and ethyl 2-cyclobutylideneacetate (10 g) in 6 mL toluene, under nitrogen was added by syringe 1mL HCl (4M in dioxane). After refluxing the solution for 3 days, the mixture was concentrated, water was added, and the solution was extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over Na2SO4 and the solvent was removed by evaporation. The crude compound was purified by column chromatography (10% ethyl acetate/hexane), giving ethyl 2-(1-(4-methoxy-3,5-dimethylphenylamino)-cyclobutyl)acetate (1 g) as a while solid. 1H-NMR (300 MHz, CDCl3) δ=6.21 (s, 2H), 4.10(q, 2H), 3.67 (s, 3H), 2.90 (s, 2H), 2.33 (m, 2H), 2.19 (m, 8H), 1.95 (m, 2H), 1.24 (t, J =6.9 Hz, 3H) ppm. MS: m/z 293 (100, M+H)+

reactant | 4-methoxy-3,5-dimethylaniline | 5 g | COC1=C(C=C(N)C=C1C)C | C9H13NO
reactant | ethyl 2-cyclobutylideneacetate | 10 g | C1(CCC1)=CC(=O)OCC | C8H12O2
reactant | HCl | 4M, 1mL | Cl | ClH
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(1-(4-methoxy-3,5-dimethylphenylamino)-cyclobutyl)acetate | 1 g | COC1=C(C=C(C=C1C)NC1(CCC1)CC(=O)OCC)C | C17H25NO3
